US04725601
A solution of 2-amino-3-(2-methylbenzylamino)pyridine (3.25 g) and chloroacetone (1.26 ml) in ethanol (65 ml) was refluxed for 18 hours and then evaporated in vacuo. To the residue was added aqueous sodium bicarbonate solution and the mixture was extracted with methylene chloride. The extract was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was purified by column chromatography on silica gel (40 g) with a mixture of methylene chloride and ethyl acetate (10:1) as an eluent to give 8-(2-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine (1.80 g).

reactant | 2-amino-3-(2-methylbenzylamino)pyridine | 3.25 g | NC1=NC=CC=C1NCC1=C(C=CC=C1)C | C13H15N3
reactant | chloroacetone | 1.26 ml | ClCC(C)=O | C3H5ClO
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 8-(2-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 1.80 g | CC1=C(CNC=2C=3N(C=CC2)C=C(N3)C)C=CC=C1 | C16H17N3
